US03947408
A mixture of 2.5 g. of N-carbobenzoxyproline, 1.7 g. of N,N'-carbonyldiimidazole and 25 ml. of tetrahydrofuran is stirred for 1 hour at room temperature and 2.2 g. of o-(benzyloxymethyl)-N-methylaniline is added. The mixture is heated at reflux temperature for 4 hours and concentrated to remove the solvent. The residue is mixed with 200 ml. of ethanol and 2 g. of 10% palladium-on-carbon catalyst and shaken in a Parr hydrogenator under about 3 atmospheres of hydrogen pressure until uptake is complete. The catalyst is filtered off and the mother liquor is concentrated to remove volatile materials. The residue is extracted into methylene chloride. This solution is washed twice with water, dried over magnesium sulfate, and heated at reflux temperature for 6 hours with 5 ml. of thionyl chloride. The reaction mixture is washed twice with sodium carbonate solution, once with water and concentrated. The residue is purified by partition chromatography on a diatomaceous earth column using a heptane/ methyl cellosolve solvent system and 1,2,3,5,10,11a-hexahydro- 10-methyl-11H-pyrrolo[2,1-c] [1,4]benzodiazepin-11-one is obtained.

reactant | N-carbobenzoxyproline | C(=O)(OCC1=CC=CC=C1)N1[C@H](C(=O)O)CCC1 | C13H15NO4
reactant | o-(benzyloxymethyl)-N-methylaniline | C(C1=CC=CC=C1)OCC1=C(NC)C=CC=C1 | C15H17NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1,2,3,5,10,11a-hexahydro- 10-methyl-11H-pyrrolo[2,1-c] [1,4]benzodiazepin-11-one | CN1C(C2N(CC3=C1C=CC=C3)CCC2)=O | C13H16N2O
